US05157027
A. 4-Bromo-2'-methyl-1,1'-biphenyl
A stirred solution of 21.0 mL of (2-methylphenyl)magnesium bromide (42.0 mmol, 2.0M in diethyl ether) was evaporated in situ at room temperature. The syrupy residue was redissolved in 50 mL of THF and cooled to -20° C. under argon. To this solution was added a solution of 6.84 g (50.0 mmol) of thricefused zinc chloride. The resulting thick white slurry was warmed to room temperature and stirred for 1 hour. After cooling to -78° C., a solution of 11.32 g (40.0 mmol) of 1-bromo-4-iodobenzene and 500 mg (0.4 mmol) of tetrakis(triphenylphosphine)palladium in 50 mL of THF was added over the course of thirty minutes. After an additional 20 minutes, the cooling bath was removed, the reaction stirred at room temperature for 2 hours and then quenched with 100 mL of 1M hydrochloric acid. The mixture was extracted twice with hexanes, the extracts combined, washed once with saturated sodium bicarbonate solution and once with 10% sodium thiosulfate. The organic extract was dried (MgSO4) and evaporated. The crude product (11.3 g) was purified by distillation (bp 93°-95° C. at 0.5 Torr) to give 8.06 g (82%) of title compound as a colorless oil.

reactant | (2-methylphenyl)magnesium bromide | 42.0 mmol, 2.0M, 21.0 mL | CC1=C(C=CC=C1)[Mg]Br
reactant | 1-bromo-4-iodobenzene | 40.0 mmol, 11.32 g | BrC1=CC=C(C=C1)I | C6H4BrI
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
catalyst | zinc chloride | 50.0 mmol, 6.84 g | [Cl-].[Zn+2].[Cl-]
catalyst | tetrakis(triphenylphosphine)palladium | 0.4 mmol, 500 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 4-Bromo-2'-methyl-1,1'-biphenyl | 8.06 g, 82% | BrC1=CC=C(C=C1)C1=C(C=CC=C1)C | C13H11Br
